### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/PosDef): inner product on matrices induced by positive definite matrix

### PR DESCRIPTION
**Pull request by themathqueen**
This defines an inner product on matrices induced by a positive definite matrix `M`: `inner x y = trace (M * xᴴ * y)`. When `M = 1`, this is exactly the [Frobenius inner product](https://en.wikipedia.org/wiki/Frobenius_inner_product).

---

- [x] depends on: #28773 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -666,4 +666,36 @@ def InnerProductSpace.ofMatrix {M : Matrix n n 𝕜} (hM : M.PosDef) :
     @InnerProductSpace 𝕜 (n → 𝕜) _ (NormedAddCommGroup.ofMatrix hM).toSeminormedAddCommGroup :=
   InnerProductSpace.ofCore _
 
+/-- A positive definite matrix `M` induces a norm on `Matrix n n 𝕜`:
+`‖x‖ = sqrt (M * xᴴ * x).trace`. -/
+noncomputable def PosDef.matrixNormedAddCommGroup {M : Matrix n n 𝕜} (hM : M.PosDef) :
+    NormedAddCommGroup (Matrix n n 𝕜) :=
+  @InnerProductSpace.Core.toNormedAddCommGroup _ _ _ _ _
+  { inner := fun x y => (M * xᴴ * y).trace
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Is this more natural than the more symmetric spelling?
```suggestion
  { inner := fun x y => (y * M * xᴴ).trace
```
I understand that they're really the same thing, my question is what you'd see written in the literature.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: From what I've seen, in the literature it's usually `trace (M * xᴴ * y)`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Maybe @j-loreaux has an opinion here. My guess is that my form is the right one for non-commutative coefficients, but without #29150 we can't state `hM` for that case anyway.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: True, but just seems unnatural to me to have `⟪x, y⟫ = trace (y * M * xᴴ)` instead of `⟪x, y⟫ = trace (M * xᴴ * y)`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Assuming you're referring to the swap of `x` and `y`, this is no weirder than
```lean-4
import Mathlib

example (x y : ℂ) : inner ℂ x y = y * star x := rfl
```
which [is @j-loreaux's doing :)](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/redefining.20.60Inner.60.20in.20.60InnerProductSpace.20.F0.9D.95.9C.20.F0.9D.95.9C.60/near/487074289)

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: lol fair enough. Okay, I'll change it then.

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 2]
```diff
@@ -666,4 +666,33 @@ def InnerProductSpace.ofMatrix {M : Matrix n n 𝕜} (hM : M.PosDef) :
     @InnerProductSpace 𝕜 (n → 𝕜) _ (NormedAddCommGroup.ofMatrix hM).toSeminormedAddCommGroup :=
   InnerProductSpace.ofCore _
 
+/-- A positive definite matrix `M` induces a norm on `Matrix n n 𝕜`:
+`‖x‖ = sqrt (x * M * xᴴ).trace`. -/
+noncomputable def PosDef.matrixNormedAddCommGroup {M : Matrix n n 𝕜} (hM : M.PosDef) :
+    NormedAddCommGroup (Matrix n n 𝕜) :=
+  @InnerProductSpace.Core.toNormedAddCommGroup _ _ _ _ _
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Do we really need the `@`?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 3]
```diff
@@ -666,4 +666,33 @@ def InnerProductSpace.ofMatrix {M : Matrix n n 𝕜} (hM : M.PosDef) :
...
+      obtain ⟨y, hy, rfl⟩ := Matrix.posDef_iff_eq_conjTranspose_mul_self.mp hM
+      rw [← mul_assoc, ← conjTranspose_conjTranspose x, ← conjTranspose_mul,
+        conjTranspose_conjTranspose, mul_assoc, trace_conjTranspose_mul_self_eq_zero_iff] at hx
+      lift y to (Matrix n n 𝕜)ˣ using hy
+      simpa [← mul_assoc] using congr(y⁻¹ * $hx) }
+
+/-- A positive definite matrix `M` induces an inner product on `Matrix n n 𝕜`:
+`⟪x, y⟫ = (y * M * xᴴ).trace`. -/
+def PosDef.matrixInnerProductSpace {M : Matrix n n 𝕜} (hM : M.PosDef) :
+    @InnerProductSpace 𝕜 (Matrix n n 𝕜) _ hM.matrixNormedAddCommGroup.toSeminormedAddCommGroup :=
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Same.

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I mean I guess another option would be to put the below between `(cd := {...})`?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 3 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I think it's needed here?

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Why on Earth is `InnerProductSpace.Core.toNormedAddCommGrou` stated like that?1

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: Can you see if you can state it in a more reasonable version, with the correct explicit variables?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I think the thing to do here is add a `letI` for the `{}` term

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: a `letI` should work here too

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean]: I'd be tempted to change the definition above (`Matrix.NormedAddCommGroup.ofMatrix`) too then, to be consistent.

**Comment by riccardobrasca** [comment]
I am still a little perplexed by the spelling of `toNormedAddCommGroup`, but this is a problem for another PR, thanks!

bors merge
